US04007198
Preparation of 1(or 2 or 4)-p-Tolylsulfonyl-s-triazole-3-carboxamide
To a cooled, stirred mixture of 3.0 g. of 1,2,4-triazole- 3-carboxamide and 5.1 g. of tosyl chloride in 125 ml. of anhydrous ether is added rapidly 2.75 g. of triethylamine. The cooling bath is removed and the mixture is stirred at room temperature for 23 hours. The heterogeneous mixture is filtered and washed successively with ether, cold water and then ether and dried in vacuo for 4.5 hours yielding a crude colorless solid. This solid is heated in about 50 ml. of acetonitrile and the hot mixture is filtered. The filtrate is concentrated to a smaller volume of about 20 ml. in vacuo. A colorless solid separates from the filtrate, which is collected and washed with acetonitrile and air dried for 10 minutes. The product is then dried overnight in vacuo, m.p. 148°-150° C.

reactant | 1,2,4-triazole- 3-carboxamide | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | tosyl chloride | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | ether | CCOCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | p-Tolylsulfonyl-s-triazole-3-carboxamide | C1(=CC=C(C=C1)S(=O)(=O)C1=NC(=NN1)C(=O)N)C | C10H10N4O3S
